US07700777B2
Biphenyl-2-ylcarbamic Acid 1-(2-{[4-(4-Carbamoylpiperidin-1-ylmethyl)benzoyl]methylamino}ethyl)piperidin-4-yl Ester
To a three-necked 2-L flask was added isonipecotamide (5.99 g, 40.0 mmol), acetic acid (2.57 mL), sodium sulfate (6.44 g) and isopropanol (400 mL). The reaction mixture was cooled to 0-10° C. with an ice bath and a solution of biphenyl-2-ylcarbamic acid 1-{2-[(4-formylbenzoyl)methylamino]ethyl}piperidin-4-yl ester (11 g, 22.7 mmol; prepared as described in Preparation 5) in isopropanol (300 mL) was slowly added. The reaction mixture was stirred at room temperature for 2 hours and then cooled to 0-10° C. Sodium triacetoxyborohydride (15.16 g, 68.5 mmol) was added portion wise and this mixture was stirred at room temperature for 16 hours. The reaction mixture was then concentrated under reduced pressure to a volume of about 50 mL and this mixture was acidified with 1N HCl (200 mL) to pH 3. The resulting mixture was stirred at room temperature for 1 hour and then extracted with DCM (3×250 mL). The aqueous phase was then cooled to 0-5° C. with an ice bath and 50% aqueous NaOH solution was added to adjust the pH of the mixture to 10. This mixture was then extracted with isopropyl acetate (3×300 mL) and the combined organic layers were washed with water (100 mL), brine (2×50 mL), dried over sodium sulfate, filtered and concentrated to afford 10.8 g of the title compound (80% yield. MS m/z: [M+H+] calc'd for C35H43N5O4 598.3; found 598.6. Rf=2.32 min (10-70 ACN:H2O, reverse phase HPLC).

reactant | isonipecotamide | 40.0 mmol, 5.99 g | N1CCC(C(=O)N)CC1 | C6H12N2O
reactant | sodium sulfate | 6.44 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | biphenyl-2-ylcarbamic acid 1-{2-[(4-formylbenzoyl)methylamino]ethyl}piperidin-4-yl ester | 22.7 mmol, 11 g | C(=O)C1=CC=C(C(=O)CNCCN2CCC(CC2)OC(NC2=C(C=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H31N3O4
reactant | Sodium triacetoxyborohydride | 68.5 mmol, 15.16 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | isopropanol | 300 mL | C(C)(C)O | C3H8O
solvent | isopropanol | 400 mL | C(C)(C)O | C3H8O
solvent | acetic acid | 2.57 mL | C(C)(=O)O | C2H4O2
product | Biphenyl-2-ylcarbamic Acid 1-(2-{[4-(4-Carbamoylpiperidin-1-ylmethyl)benzoyl]methylamino}ethyl)piperidin-4-yl Ester | 10.8 g, 80% yield | C(N)(=O)C1CCN(CC1)CC1=CC=C(C(=O)CNCCN2CCC(CC2)OC(NC2=C(C=CC=C2)C2=CC=CC=C2)=O)C=C1 | C35H43N5O4
